US08802679B2
Ethyl 4-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)benzoate (451 mg) was dissolved in EtOH (5 ml) and THF (5 ml), and a 1 M aqueous NaOH solution (2 ml) was added thereto, followed by stirring at room temperature for 3 hours. After neutralization with 1 M hydrochloric acid (2 ml), water was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain 4-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)benzoic acid (269 mg).

reactant | Ethyl 4-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)benzoate | 451 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C32H40N6O5
reactant | NaOH | 1 M, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 2 ml | Cl | ClH
reactant | water | O | H2O
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)benzoic acid | 269 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C30H36N6O5
